US06902860B2
Into a 1 liter fask 500 g of N,N-Dimethyl acetamide and 173.5 g (1.6 mole) of p-aminophenol were added. This mixture was placed in cold bath and 234.9 g (1.5 mole) of methacryloyl oxyethyl isocyanate was added over a period of 1 hour. After the addition was complete, stirring was continued for 5 hours at room temperature. The mixture was tested for isocyanate functionality using IR spectroscopy. 30 ml of concentrated HCl was added to the mixture and was stirred for 15 minutes. The mixture was poured into 4.5 liter of water. The deposit was filtered, washed and dried to produce 370 g of 2-(N′-(4-hydroxyphenyl)ureido)ethyl methacrylate.

reactant | p-aminophenol | 1.6 mole, 173.5 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | methacryloyl oxyethyl isocyanate | 1.5 mole, 234.9 g | C(C(=C)C)(=O)OCCN=C=O | C7H9NO3
reactant | isocyanate | [N-]=C=O
reactant | HCl | 30 ml | Cl | ClH
solvent | water | 4.5 liter | O | H2O
solvent | N,N-Dimethyl acetamide | 500 g | CN(C(C)=O)C | C4H9NO
product | 2-(N′-(4-hydroxyphenyl)ureido)ethyl methacrylate | 370 g | C(C(=C)C)(=O)OCCNC(=O)NC1=CC=C(C=C1)O | C13H16N2O4
